US06734307B2
(a) Preparation of 1-(2-Fluoro-4-nitrophenyl)homopiperazine
To homopiperazine (5 g, 0.05 mol) in acetonitrile (30 mL), 3.4-difluoronitrobenzene (3.17 g, 0.02 mol) was added and the reaction mixture was heated to reflux for 4 hrs. Then the solvent was evaporated and the residue taken in EtOAc and washed with water and brine solution. The EtOAc layer was dried over anhyd Na2SO4 and evaporated in vacuo. The residue was digested with ether-hexane (1:20), decanted and dried in vacuo to get 3.7 g of final product.

reactant | homopiperazine | 0.05 mol, 5 g | N1CCNCCC1 | C5H12N2
reactant | 3.4-difluoronitrobenzene | 0.02 mol, 3.17 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 1-(2-Fluoro-4-nitrophenyl)homopiperazine | 3.7 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCCC1 | C11H14FN3O2
